US08912186B2
By a procedure similar to that of example 1.59.1, starting from 4-chlorobenzaldehyde and 4-ethylacetophenone, 3-(4-chlorophenyl)-1-(4-ethylphenyl)prop-2-en-1-one was obtained as pale yellowish solid.

reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-ethylacetophenone | CCC1=CC=C(C=C1)C(=O)C | C10H12O
product | 3-(4-chlorophenyl)-1-(4-ethylphenyl)prop-2-en-1-one | ClC1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)CC | C17H15ClO
